US08426447B2
To a 25 mL flask was added 2′-bromo-7′-iodo-5H-spiro[oxazole-4,9′-xanthen]-2-amine (536 mg, 1.173 mmol), bis(triphenylphosphine)palladium(II) chloride (82 mg, 0.117 mmol), copper(I) iodide (22.33 mg, 0.117 mmol). THF (10 ml), 2-methylbut-3-yn-2-ol (0.459 ml, 4.69 mmol) and DIPA (1.657 ml, 11.73 mmol) were added and the mixture was heated at 60° C. for 16 hrs. The mixture was filtered through Celite and concentrated. Separation on 12 g Redi-Sep column using 15-80% DCM/MeOH/NH4OH 90:10:1 in DCM gave 4-(2-amino-2′-bromo-5H-spiro[oxazole-4,9′-xanthene]-7′-yl)-2-methylbut-3-yn-2-ol (310 mg, 0.750 mmol, 64% yield) and ˜200 mg of symmetric product containing impurities, which was purified again using stacker of two 12 g Redi-Sep column, eluent 45-75% DCM/MeOH/NH4OH in DCM to afford 4,4′-(2-amino-5H-spiro[oxazole-4,9′-xanthene]-2′,7′-diyl)bis(2-methylbut-3-yn-2-ol).

reactant | 2′-bromo-7′-iodo-5H-spiro[oxazole-4,9′-xanthen]-2-amine | 1.173 mmol, 536 mg | BrC1=CC=2C3(C4=CC(=CC=C4OC2C=C1)I)N=C(OC3)N | C15H10BrIN2O2
reactant | 2-methylbut-3-yn-2-ol | 4.69 mmol, 0.459 ml | CC(C)(C#C)O | C5H8O
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.117 mmol, 82 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.117 mmol, 22.33 mg | [Cu]I
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-(2-amino-2′-bromo-5H-spiro[oxazole-4,9′-xanthene]-7′-yl)-2-methylbut-3-yn-2-ol | 0.750 mmol, 310 mg, 64% yield | NC=1OCC2(C3=CC(=CC=C3OC=3C=CC(=CC23)Br)C#CC(C)(O)C)N1 | C20H17BrN2O3
